US07732440B2
Ethyl 10-methyl-8-[1-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-2-(3-oxocyclopentyl)ethyl]-5,5-dioxo-5,10-dihydrophenothiazin-3-carboxylate
A solution of 445 mg of 2-(7-bromo-10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(1,4-dioxaspiro[4.4]non-7-yl)-N-(1-methyl-1H-pyrazol-3-yl)propionamide (prepared analogously to Example 1 from ethyl (10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)acetate, T-iodomethyl-1,4-dioxa-spiro[4.4]nonane and commercially available 1-methyl-1H-pyrazole-3-amine) is dissolved in 8 ml of anhydrous ethanol and 8 ml of DMSO, and 0.74 ml of triethylamine and 76 mg of 1,3-bis(diphenylphosphino)propane are added under argon. The reaction solution is flushed with argon, and 35 mg of palladium acetate are then added. The reaction mixture is stirred at 70° C. and 1 bar of CO for three hours. The cooled reaction mixture is diluted by addition of 200 ml of ethyl acetate and washed with in each case 100 ml of water and saturated sodium chloride solution, dried over MgSO4 and then concentrated under reduced pressure. The residue is dissolved in 25 ml of acetone, and 3 ml of 10% strength hydrochloric acid are added. The reaction mixture is stirred at room temperature for three hours. The reaction mixture is then washed with saturated NaHCO3 solution, dried over MgSO4 and then concentrated under reduced pressure. The residue is purified on silica gel using the mobile phase n-heptane:ethyl acetate=1:1=>ethyl acetate=>ethyl acetate:methanol=99:1. This gives 844 mg of ethyl 10-methyl-8-[1-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-2-(3-oxocyclopentyl)-ethyl]-5,5-dioxo-5,10-dihydrophenothiazine-3-carboxylate.

reactant | 2-(7-bromo-10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(1,4-dioxaspiro[4.4]non-7-yl)-N-(1-methyl-1H-pyrazol-3-yl)propionamide | 445 mg | BrC=1C=C2S(C=3C=CC(=CC3N(C2=CC1)C)C(C(=O)NC1=NN(C=C1)C)CC1CC2(OCCO2)CC1)(=O)=O | C27H29BrN4O5S
reactant | ethyl (10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)acetate | CN1C2=CC=CC=C2S(C=2C=CC(=CC12)CC(=O)OCC)(=O)=O | C17H17NO4S
reactant | 1-methyl-1H-pyrazole-3-amine | CN1N=C(C=C1)N | C4H7N3
reactant | 1,3-bis(diphenylphosphino)propane | 76 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.74 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 10-methyl-8-[1-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-2-(3-oxocyclopentyl)ethyl]-5,5-dioxo-5,10-dihydrophenothiazin-3-carboxylate | CN1C2=CC(=CC=C2S(C=2C=C(C=CC12)C(=O)OCC)(=O)=O)C(CC1CC(CC1)=O)C(NC1=NN(C=C1)C)=O | C28H30N4O6S
